US05641765
(iv) 17β-[3-(4-fluorophenyl)-1-oxopropyl]-3,5-androstadiene-3-carboxylic acid
A mixture of trifluoromethyl -17β-[3-(4-fluorophenyl )-1-oxopropyl]-androsta-3,5-diene-3-sulfonate (0.28 g, 0.5 mmol), palladium (II) acetate (5.6 mg, 0.025 mmol), triphenylphosphine (13 mg, 0.05 mmol), potassium acetate (0.19 g, 2 mmol) and DMF (6 ml) was heated at 60° C. under an atmosphere of CO for 2.5 hours. The cooled mixture was diluted with ice water, acidified with dilute HCl and extracted with CH2Cl2. The organic extract was washed with water, brine, dried (MgSO4), filtered, concentrated in vacuo, and chromatographed (silica gel, 1% AcOH/19% EtOAc/80% hexanes) to yield the title compound 0.12 g (53%). Recrystallized from methanol-acetone. mp 220°-220° C. analysis for C29H35FO3 0.25 H2O(455.1)

reactant | trifluoromethyl -17β-[3-(4-fluorophenyl )-1-oxopropyl]-androsta-3,5-diene-3-sulfonate | 0.5 mmol, 0.28 g | FC(F)(F)OS(=O)(=O)C1=CC2=CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C(CCC1=CC=C(C=C1)F)=O | C29H34F4O4S
reactant | triphenylphosphine | 0.05 mmol, 13 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium acetate | 2 mmol, 0.19 g | C(C)(=O)[O-].[K+]
reactant | HCl | Cl | ClH
catalyst | palladium (II) acetate | 0.025 mmol, 5.6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 17β-[3-(4-fluorophenyl)-1-oxopropyl]-3,5-androstadiene-3-carboxylic acid | 0.12 g, 53% | FC1=CC=C(C=C1)CCC(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C=C(CC[C@]3(C)[C@H]1CC2)C(=O)O | C29H35FO3
